US07253286B2
4-(4-Nitrophenoxy)furo[2.3-b]pyridine-2-carboxylic acid methyl ester
After adding N-methylpyrrolidone (4.0 ml), diisopropylethylamine (1.3 ml) and para-nitrophenol (822 mg) to 4-chlorofuro[2.3-b]pyridine-2-carboxylic acid methyl ester (1.0 g), the mixture was heated and stirred at 140° C. for 5 hours. After cooling, water was added, extraction was performed with ethyl acetate, the organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. Tetrahydrofuran was used for recrystallization to obtain the title compound (70 mg).

reactant | N-methylpyrrolidone | 4.0 ml | CN1C(CCC1)=O | C5H9NO
reactant | diisopropylethylamine | 1.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | para-nitrophenol | 822 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 4-chlorofuro[2.3-b]pyridine-2-carboxylic acid methyl ester | 1.0 g | COC(=O)C1=CC=2C(=NC=CC2Cl)O1 | C9H6ClNO3
solvent | water | O | H2O
product | 4-(4-Nitrophenoxy)furo[2.3-b]pyridine-2-carboxylic acid methyl ester | 70 mg | COC(=O)C1=CC=2C(=NC=CC2OC2=CC=C(C=C2)[N+](=O)[O-])O1 | C15H10N2O6
